US08431695B2
Step 1: Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-[3-(bromomethyl)phenyl]pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a solution of {3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]phenyl}methanol (575 mg, 1.29 mmol) and triphenylphosphine (507 mg, 1.93 mmol) in tetrahydrofuran (10 mL) was added carbon tetrabromide (512 mg, 1.55 mmol). The reaction was stirred at rt for 17 h. The mixture was partitioned between water (50 mL) and CH2Cl2 (50 mL). The layers were separated and the organic phase was washed with brine, dried (Na2SO4), and evaporated. The crude material was purified via ISCO® chromatography using a gradient of 50 to 75% ethyl acetate in hexanes to afford 592 mg (90%) of the desired product, which contained a minor impurity. ES-MS m/z 509.41 [M+H]+, HPLC RT (min) 3.31 min.

reactant | {3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]phenyl}methanol | 1.29 mmol, 575 mg | NC1=NC=NN2C1=C(C=C2C=2C=C(C=CC2)CO)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C27H22N6O
reactant | triphenylphosphine | 1.93 mmol, 507 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 1.55 mmol, 512 mg | C(Br)(Br)(Br)Br | CBr4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-(2-benzyl-2H-indazol-6-yl)-7-[3-(bromomethyl)phenyl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 592 mg, 90% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC(=CC=C2)CBr | C27H21BrN6
